US09406894B2
First, 10 g of ethyl benzimidate hydrochloride, 150 mL of toluene, and 11 g of triethylamine (Et3N) were put into a 500-mL three-neck flask and this mixture was stirred at room temperature for 10 minutes. After a predetermined time elapsed, with a 50-mL dropping funnel, a mixed solution of 5.8 g of butyryl chloride and 30 mL of toluene was added dropwise to this mixture, and the mixture was stirred at room temperature for 24 hours. After the stirring, this mixture was suction-filtered, and the obtained filtrate was concentrated to give N-(1-ethoxybenzylidene)butyramide (a yellow oily substance, 100% yield). The synthesis scheme of Step 1 is shown in (A-1) below.

reactant | ethyl benzimidate hydrochloride | 10 g | Cl.C(C1=CC=CC=C1)(OCC)=N
reactant | triethylamine | 11 g | C(C)N(CC)CC | C6H15N
reactant | butyryl chloride | 5.8 g | C(CCC)(=O)Cl | C4H7ClO
reactant | toluene | 30 mL | C1(=CC=CC=C1)C | C7H8
reactant | toluene | 150 mL | C1(=CC=CC=C1)C | C7H8
product | N-(1-ethoxybenzylidene)butyramide | 100% yield | C(C)OC1(C=NC(CCC)=O)CC=CC=C1 | C13H19NO2
